US05336793
The apparatus used in Example 3 was loaded with the following reagents: 103 g of crude oleic acid (purity=80%, linoleic acid content=9.9%), 2.0 g of H2WO4 and 2.0 g of Arquad 2HT. 105 cm3 of 60% H2O2 were gradually added to the mixture which was stirred continuously and kept at a temperature of between 100° and 109° C. for a period of about 5 hours. Treatment was carried out as described in Example 3 and 39.8 g of pelargonic acid (total yield 86%) and 46.8 g of azelaic acid (total yield 76% ) were obtained.

reactant | oleic acid | 103 g | C(CCCCCCC\C=C/CCCCCCCC)(=O)O | C18H34O2
solvent | H2O2 | 105 cm3 | OO | H2O2
product | pelargonic acid | 39.8 g, yield 86% | C(CCCCCCCC)(=O)O | C9H18O2
